US04640708
A mixture of 7-methoxy-5-methyl-1,2,3,4-tetrahydronaphthalene (1.0 g) and 10% palladium on charcoal (1.0 g) was stirred and heated in diphenyl ether (2 ml) at 200° C. for 1 hr. The mixture was purified by column chromatography over silica with light petroleum/dichloromethane (1:1 v/v) elution to give 2-methoxy-4-methylnaphthalene as a low melting point solid. Pmr spectrum (CDCl3 ; δ in ppm): 2.64 (3H,s); 3.89 (3H,s); 7.0-7.9 (6H,m).

reactant | 7-methoxy-5-methyl-1,2,3,4-tetrahydronaphthalene | 1.0 g | COC1=CC(=C2CCCCC2=C1)C | C12H16O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | diphenyl ether | 2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-methoxy-4-methylnaphthalene | COC1=CC2=CC=CC=C2C(=C1)C | C12H12O
